US07371747B2
To ethyl(1R/S,6R/S)-6-formyl-3-methylcyclohex-2-ene-1-carboxylate (516 mg, 2.6 mmol) in methanol (13 mL) at 0° C. was added NaBH4 (199 mg, 5.3 mmol) and the reaction mixture was stirred for 2 h. Water was added, the product extracted with ethyl acetate, and dried over anhydrous sodium sulfate. The solvent was removed in vacuo and the product was purified by flash chromatography over silica gel (ethyl acetate/hexanes, 20/80 to 40/60) to afford ethyl(1R/S,6R/S)-6-(hydroxymethyl)-3-methylcyclohex-2-ene-1-carboxylate.

reactant | ethyl(1R/S,6R/S)-6-formyl-3-methylcyclohex-2-ene-1-carboxylate | 2.6 mmol, 516 mg | C(=O)C1CCC(=CC1C(=O)OCC)C | C11H16O3
reactant | NaBH4 | 5.3 mmol, 199 mg | [BH4-].[Na+]
reactant | Water | O | H2O
solvent | methanol | 13 mL | CO | CH4O
product | ethyl(1R/S,6R/S)-6-(hydroxymethyl)-3-methylcyclohex-2-ene-1-carboxylate | OCC1CCC(=CC1C(=O)OCC)C | C11H18O3
